US08564871B2
To a three-neck flask fitted with a reflux condenser and a dropping funnel were added the 3,6-bis(9-methylcarbazol-3-yl)-9-allylcarbazole (10 g), anhydrous THF (100 g), and platinum (0) 1,3-divinyl-1,1,3,3-tetramethyldisiloxane complex (250 mg of a 0.05% solution in anhydrous toluene). Then, trichlorosilane (30 g) was slowly added. When the addition of trichlorosilane was completed, the mixture was heated to 60° C. and maintained at that temperature for two hours. Then, the mixture was distilled at 0.02 torr to remove volatiles and gave 9-(3-trichlorosilylprop-1-yl)carbazole with a yield of about 5.6 g, at a concentration of about 90% by weight. 1 H NMR (CDCl3) δ 8.53 (d, 2 H, J=1.5 Hz); 8.46 (d, 2 H, J=1.2 Hz); 8.21 (d, 2 H, J=7.8 Hz); 7.87 (m, 4 H); 7.48 (m, 8 H); 7.27 (m, 2 H); 6.10 (m, 1 H); 5.40 (d, 1 H, J=9.0 Hz); 5.14 (d, 1 H, J=15.9 Hz); 5.00 (m, 2 H); 3.91 (s, 6 H).

reactant | 3,6-bis(9-methylcarbazol-3-yl)-9-allylcarbazole | 10 g | CN1C2=CC=CC=C2C=2C=C(C=CC12)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C)CC=C | C41H31N3
reactant | THF | 100 g | C1CCOC1 | C4H8O
reactant | trichlorosilane | 30 g | Cl[SiH](Cl)Cl | Cl3HSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 9-(3-trichlorosilylprop-1-yl)carbazole | Cl[Si](CCCN1C2=CC=CC=C2C=2C=CC=CC12)(Cl)Cl | C15H14Cl3NSi
